US08455141B2
(2) Synthesis of Trimethylsilyl 4-Pentenoate
4-pentenoic acid (Tokyo Kasei Kogyo Co., Ltd., 48.48 g) was placed in a 200 mL flask with 3 openings having a circulated cooling line, a stirring apparatus and a nitrogen gas guide pipe. The flask was immersed in an ice bath, and hexamethyl disilazane (39.08 g, 0.242 mol) was dropped while a nitrogen gas was introduced and the solution was stirred. A white crystal deposited and the entirety became a sherbet-like form. The solution was stirred and a nitrogen gas was introduced so as to expel an ammonium gas, and then, the reaction was progressed at 100° C. for approximately 6 hours. The crystal in the reacting liquid dissolved and was converted to a colorless and transparent solution. Refinement was carried out through distillation under reduced pressure, and trimethylsilyl 4-pentenoate (70.9 g) was gained as a colorless and transparent liquid (purity by measure of gas chromatography: 96.8%).

reactant | 4-pentenoic acid | 48.48 g | C(CCC=C)(=O)O | C5H8O2
reactant | hexamethyl disilazane | 0.242 mol, 39.08 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonium | [NH4+]
product | Trimethylsilyl 4-Pentenoate | C(CCC=C)(=O)O[Si](C)(C)C | C8H16O2Si
